US04789675
A mixture of 2-(3-bromopropyl)-6,7,8,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazin-3(4H)-one (3.1 g), 1-(4-fluorophenyl)piperazine (2.3 g), triethylamine (1.5 ml) and N,N-dimethylformamide (DMF)(100 ml) was stirred at 80° C. for 1.5 hour, which was diluted with ice-water and subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), from which the solvent was distilled off. The residue was recrystallized from chloroform-ethyl acetate to give 2.4 g (59.3%) of 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-6,7,8,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazin-3(4H)-one as colorless crystals, m.p. 164°-165° C.

reactant | 2-(3-bromopropyl)-6,7,8,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazin-3(4H)-one | 3.1 g | BrCCCC1C(NC2=C(O1)C=C1CCCCC1=C2)=O | C15H18BrNO2
reactant | 1-(4-fluorophenyl)piperazine | 2.3 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-6,7,8,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazin-3(4H)-one | 2.4 g, 59.3% | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1C(NC2=C(O1)C=C1CCCCC1=C2)=O | C25H30FN3O2
